US04992504
Preparation of 1-benzylthio-4-tert-butoxycarbonyl-3,5-hexanedione
10.7 g (0.44 mol) of magnesium, 2 ml of chloroform and 46 g (1 mol) of absolute ethanol are initially placed, with the exclusion of moisture, in a 1 1 flask equipped with a stirrer, a thermometer, a dropping funnel and a reflux condenser, and are heated under reflux for 1 hour, with stirring. 300 ml of diethyl ether are then added dropwise and the mixture is stirred for 1.5 hours. The mixture is then cooled to approx. 12° C. 63.2 g (0.4 mol) of tert-butyl acetoacetate are added dropwise at this temperature. The reaction mixture is cooled further to approx. -3° C., and 85.8 g (0.4 mol) of benzylthiomethylacetyl chloride in 100 ml of absolute diethyl ether are added dropwise at this temperature in the course of 45 minutes. The mixture is then stirred for a further hour at approx. -3° C. and is then stirred for a further 2 hours without cooling, in the course of which it reaches room temperature. The reaction mixture is stirred into 400 g of ice-water and 48 g of concentrated H2SO4. The organic phase is separated off and is washed with 150 ml of water, 100 ml of bicarbonate and 150 ml of water again and is then dried and concentrated.

reactant | magnesium | 0.44 mol, 10.7 g | [Mg] | Mg
reactant | ethanol | 1 mol, 46 g | C(C)O | C2H6O
reactant | tert-butyl acetoacetate | 0.4 mol, 63.2 g | C(CC(=O)C)(=O)OC(C)(C)C | C8H14O3
reactant | benzylthiomethylacetyl chloride | 0.4 mol, 85.8 g | C(C1=CC=CC=C1)SCCC(=O)Cl | C10H11ClOS
reactant | H2SO4 | 48 g | OS(=O)(=O)O | H2O4S
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-benzylthio-4-tert-butoxycarbonyl-3,5-hexanedione | C(C1=CC=CC=C1)SCCC(C(C(C)=O)C(=O)OC(C)(C)C)=O | C18H24O4S
